US05304566
2-(2-chloro-5-pyridylmethylamino)-1-cyano-1-propene
1.4 g of 2-chloro-5-pyridylmethylamine and 0.8 g of 1-cyano-2-propanone were mixed and the mixture was stirred at room temperature over night. The solvent was then distilled off and the residue was purified by column chromatography on silica gel to afford 1.7 g of compound No. 528. m.p. 95°-98° C.

reactant | 2-chloro-5-pyridylmethylamine | 1.4 g | ClC1=NC=C(C=C1)CN | C6H7ClN2
reactant | 1-cyano-2-propanone | 0.8 g | C(#N)CC(C)=O | C4H5NO
product | 2-(2-chloro-5-pyridylmethylamino)-1-cyano-1-propene | 1.7 g | ClC1=NC=C(C=C1)CNC(=CC#N)C | C10H10ClN3
